US04843087
A mixture of 16.5 g of dimethyl 4,4'-dithiobis[benzoate] [Werbel et al., J. Heterocycl. Chem.17, 497 (1980)] and 13.0 g of ethanolamine was heated at 140° C. while collecting the methanol which distilled from the reaction. After evolution of methanol had ceased, the reaction mixture was cooled and acidified with dilute hydrochloric acid. The solid product which formed was collected and dried to give 13.3 g of N,N'-bis(2-hydroxyethyl)-4,4'-dithiobis[benzamide], used directly in the next reaction.

reactant | dimethyl 4,4'-dithiobis[benzoate] | 16.5 g | C(C1=CC=C(C=C1)SSC1=CC=C(C(=O)OC)C=C1)(=O)OC | C16H14O4S2
reactant | ethanolamine | 13.0 g | C(O)CN | C2H7NO
product | N,N'-bis(2-hydroxyethyl)-4,4'-dithiobis[benzamide] | 13.3 g | OCCNC(C1=CC=C(C=C1)SSC1=CC=C(C(=O)NCCO)C=C1)=O | C18H20N2O4S2
